Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors / Lisinopril / Lipitor / 
Crestor / Accupril
 
Attending: ___.
 
Chief Complaint:
black emesis and melena
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ with h/o chronic phlebitis on coumadin x ___ years, 
diverticulitis, HTN, HLD, CKD (b/l Cr 2.9-3.2) p/w black vomit 
and black stools x 3 days.  

His symptoms began 3 days prior to admission when he had liquid 
black, not coffee ground emesis without nausea 3 times. He then 
vomited several more times the following day. Other associated 
symptoms include ___ epigastric crampy non-radiating abdominal 
pain that was associated with the vomiting, but no alleviating 
or aggravating symptoms. Denies any relationship of the 
abdominal pain to food. He has not vomited since two days prior 
to admission but had 1 black tarry stool with a reddish color 
morning of presentation. He went to his PCP's office morning of 
admission, where he was found to have a rectal exam notable for 
black tarry stool, guaiac positive. Reportedly he was not 
orthostatic He was referred to the ED for urgent labs and EGD. 
He denies any fevers, chills, lightheadedness, SOB, CP, NSAID 
ingestion, smoking, ETOH, recent weight loss, decreased po 
intake.  
 
In the ED, initial vs were: 2 90 166/65 18 100%. Rectal exam in 
the ED was notable for black stool that was guaiac positive. 
Labs were remarkable for Hct 36.9 from baseline of 39.3 in 
___. INR of 2.9. Cr 3.1 appears baseline (2.6-3.3 over the 
last ___ years). BUN 57, and Bicarb 19. Patient was given protonix 
40mg IV along with Vit K 15mg (10mg IV and 5mg PO) plus 1 unit 
FFP and 500cc NS. ED was unable to obtain two peripheral IVs 
after multiple attempts. ED Vitals on Transfer:98.1 75 123/71 18 
100% RA  
 
Pt had EGD this morning, showing significant gaistritis with ___ 
superficial ulcer, and duodenitis.  no active bleed noted, no 
intervention was needed at EGD.

 
Past Medical History:
Hypertension  
Hyperlipidemia  
DVT  
Chronic renal insufficiency (baseline 2.9 to 3.2)  
Obstructive sleep apnea - no longer on CPAP  
Malignant neoplasm of prostate s/p radical ___ 
 
Pulmonary nodule (CT scan ___  
Diverticulitis  
Gout  
Nephrolithiaisis  
Eczema  
Squamous cell in situ of the lateral tongue.  

 
Social History:
___
Family History:
FAMILY HISTORY:
Father had diabetes and passed from MI at age ___.
Mother was healthy and died at age ___.
Has a sister with DM.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 98.1  122/79 73 16 97RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes, rales, rhonchi  
CV: RRR, normal S1 + S2, no MRG  
Abdomen: soft, non-tender, non-distended, NABS, surgical scars 
present.  
Ext: Warm, well perfused, 2+ DP, no clubbing, cyanosis or edema  

Neuro: PERRL, CNII-XII grossly intact, moves all extremities  
.
DISCHARGE PHYSICAL EXAM
Vitals: 98.5 131/60 67 18 96RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear - no blood 
Lungs: CTAB, no wheezes, rales, rhonchi  
CV: RRR, normal S1 + S2, no MRG  
Abdomen: soft, non-tender, non-distended, NABS, surgical scars 
present.  
Ext: Warm, well perfused, 2+ DP, no clubbing, cyanosis or edema, 
no calf tenderness, pneumoboot was just taken off by the pt > 
asked the patient to keep pneumoboots on.  
Neuro: PERRL, CNII-XII grossly intact, moves all extremities  

 
Pertinent Results:
ADMISSION LABS

___ 04:10PM BLOOD WBC-8.2 RBC-3.89* Hgb-11.6* Hct-36.9* 
MCV-95 MCH-29.7 MCHC-31.3 RDW-13.8 Plt ___
___ 04:10PM BLOOD WBC-8.2 RBC-3.89* Hgb-11.6* Hct-36.9* 
MCV-95 MCH-29.7 MCHC-31.3 RDW-13.8 Plt ___
___ 04:10PM BLOOD ___ PTT-32.0 ___
___ 04:10PM BLOOD Glucose-103* UreaN-57* Creat-3.1* Na-137 
K-3.8 Cl-105 HCO3-19* AnGap-17
___ 08:20AM BLOOD Calcium-9.0 Phos-3.0 Mg-1.9

DISCHARGE LABS

___ 08:20AM BLOOD WBC-6.7 RBC-3.81* Hgb-11.6* Hct-36.1* 
MCV-95 MCH-30.5 MCHC-32.2 RDW-13.5 Plt ___
___ 08:20AM BLOOD ___
___ 08:20AM BLOOD Glucose-95 UreaN-44* Creat-3.1* Na-144 
K-4.1 Cl-111* HCO3-23 AnGap-14

PERTINENT RESULTS

___ 10:30 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      POSITIVE BY EIA. 
           (Reference Range-Negative). 

EGD ___
- Mild erythema in the gastroesophageal junction
- Erythema, granularity, erosion, and two to three superficial 
ulcerations in the antrum and stomach body compatible with 
gastritis
- Erythema in the duodenal bulb compatible with duodenitis
- Otherwise normal EGD to third part of the duodenum
 
Brief Hospital Course:
___ with h/o chronic phlebitis on coumadin x ___ years, 
diverticulitis, HTN, HLD, CKD (b/l Cr 2.9-3.2) p/w black vomit 
and black stools x 3 days.  
 
# GIB: Pt presented with black emesis as well as melena.  He was 
hemodynamically stable on admission.  Vitamin K and FFP was 
given to the patient in the ED; pt had 2 large bore IV and also 
received 500cc of fluid IV. EGD showed gastritis and duodenitis 
with ___ superficial ulcers - no active bleed was noted during 
the scope. Pt was monitored post EGD overnight with stable q8hr 
hct check. H.pylori serology was positive.  On day of discharge, 
pt had stable vitals and hematocrits.  He was discharged home to 
finish 2 weeks of triple therapies with close PCP and GI follow 
ups.

# Phlebitis: Patient is on coumadin for phlebitis/recurrent DVT. 
He was reversed in ED with vitamin K 10mg IV and 5mg po.  Per 
discussion with pt's PCP, he was restarted on warfarin at home 
dose with no bridging and will follow up 2 days after discharge 
in PCP's office for INR check.  Pt had stable hematocrit with no 
sign of active bleeding on day of discharge.

# Hypertension: stable on home losartan. verapamil SR was given 
in short acting form.
 
# CKD: Cr remained at baseline with daily trends. All 
medications were reanlly dosed.  

# Gout: stable on home allopurinol  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Verapamil SR 240 mg PO Q24H 
4. Warfarin 5 mg PO EVERY OTHER DAY 
5. Warfarin 6 mg PO EVERY OTHER DAY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. Verapamil SR 240 mg PO Q24H 
5. Warfarin 5 mg PO EVERY OTHER DAY 
6. Warfarin 6 mg PO EVERY OTHER DAY 
7. Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule,delayed ___ by 
mouth twice a day Disp #*56 Capsule Refills:*0
8. Amoxicillin 500 mg PO Q12H 
RX *amoxicillin 500 mg 1 tablet(s) by mouth every 12 hours Disp 
#*28 Capsule Refills:*0
9. Clarithromycin 250 mg PO Q12H 
RX *clarithromycin 250 mg 1 tablet(s) by mouth every 12 hours 
Disp #*28 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis - GI bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It has been our pleasure to take care of you.  You were admitted 
because you had black vomits and stool concerning for bleed in 
your gastroinstestinal tract.  You were scoped by our 
gastroenterologists, who found inflammations in your stomach and 
first part of your intestine. Your H. pylori test came back 
positive, and after consulting with the gastroenterologists, we 
are starting you on antibiotics to treat the infection. You will 
take antibiotics for 14 days.

How long you will be on the omeprazole will be determined by the 
gastroenterologist at your hospital follow-up appointment.

You will need to have your INR checked on ___. Please have your blood pressure checked at that time as 
well.  

 
Followup Instructions:
___